US06734203B2
Benzylamine (0.5 ml) was added to a solution of N-(3-chloro-1,4-dihydro-1,4-dioxo-2-naphthalenyl)-N-(2-methoxyethyl)acetamide (0.5 g) in benzene (15 ml) and the mixture was stirred at room temperature for 4 hours. Ethyl acetate was added to the reaction solution and the mixture was washed with water and brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was crystallized from ethyl acetate-hexane to give N-(3-benzylamino-1,4-dihydro-1,4-dioxo-2-naphthalenyl)-N-(2-methoxyethyl)acetamide (0.51 g) as a red powder.

reactant | Benzylamine | 0.5 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | N-(3-chloro-1,4-dihydro-1,4-dioxo-2-naphthalenyl)-N-(2-methoxyethyl)acetamide | 0.5 g | ClC1=C(C(C2=CC=CC=C2C1=O)=O)N(C(C)=O)CCOC | C15H14ClNO4
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | N-(3-benzylamino-1,4-dihydro-1,4-dioxo-2-naphthalenyl)-N-(2-methoxyethyl)acetamide | 0.51 g | C(C1=CC=CC=C1)NC1=C(C(C2=CC=CC=C2C1=O)=O)N(C(C)=O)CCOC | C22H22N2O4
